US07365225B2
[4-({(4-{[(4-phenoxybenzyl)amino]carbonyl}benzyl)[4-(trifluoromethyl)benzoyl]amino}methyl) phenoxy]acetic acid
The title compound was prepared following the procedure A using 4-phenoxybenzylamine, 4-(chloromethyl)benzoyl chloride, 4-(trifluoromethyl)benzoyl chloride and methyl[4-(aminomethyl)phenoxy]acetate, acetate salt. M+(ESI): 669.2

reactant | 4-phenoxybenzylamine | O(C1=CC=CC=C1)C1=CC=C(CN)C=C1 | C13H13NO
reactant | 4-(chloromethyl)benzoyl chloride | ClCC1=CC=C(C(=O)Cl)C=C1 | C8H6Cl2O
reactant | 4-(trifluoromethyl)benzoyl chloride | FC(C1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O
reactant | methyl[4-(aminomethyl)phenoxy]acetate | COC(COC1=CC=C(C=C1)CN)=O | C10H13NO3
product | [4-({(4-{[(4-phenoxybenzyl)amino]carbonyl}benzyl)[4-(trifluoromethyl)benzoyl]amino}methyl) phenoxy]acetic acid | O(C1=CC=CC=C1)C1=CC=C(CNC(=O)C2=CC=C(CN(C(C3=CC=C(C=C3)C(F)(F)F)=O)CC3=CC=C(OCC(=O)O)C=C3)C=C2)C=C1 | C38H31F3N2O6
